US08648066B2
A mixture of commercially available 3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (125 mg, 0.47 mmol), 4-[6,7-bis(methyloxy)quinolin-4-yl]-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine (155 mg, 0.47 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (34 mg, 0.05 mmol), cesium carbonate (300 mg, 2.4 mmol) in 1,4-dioxane (20 mL) and water (2 mL) was degassed with nitrogen for 5 minutes and then stirred at 93° C. for 18 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (80 mL) then filtered through a celite bed. The filtrate was washed with brine (2×50 mL), dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel flash chromatography (0 to 10% methanol-dichloromethane) to give 5-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-3-nitropyridin-2-amine (135 mg, 76% yield); MS (EI) for C25H23N5O5: 474 (MH+).

reactant | 3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.47 mmol, 125 mg | [N+](=O)([O-])C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C11H16BN3O4
reactant | 4-[6,7-bis(methyloxy)quinolin-4-yl]-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.47 mmol, 155 mg | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)Br | C20H19BrN2O3
reactant | dichloromethane | 0.05 mmol, 34 mg | ClCCl | CH2Cl2
reactant | cesium carbonate | 2.4 mmol, 300 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-3-nitropyridin-2-amine | 135 mg, 76% yield | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)[N+](=O)[O-] | C25H23N5O5
